US07030141B2
Step 1: (2R,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
Cis-4-hydroxy-D-proline (1.1 g, 8.4 mmol) was dissolved in 18 mL of THF/H2O (2:1), added 2M aqueous NaOH solution (6.3 mL, 13 mmol), followed by Boc2O. Reaction was stirred at ambient temperature over the weekend. Solution was taken up in 150 mL EtOAc, washed with 10% HCl (3×100 mL), dried organics with MgSO4, filtered and concentrated to yield title compound as a white foam. (1.5 g, 77%) APCI (AP−): 230.1 (M−H)−.

reactant | Cis-4-hydroxy-D-proline | 8.4 mmol, 1.1 g | O[C@@H]1C[C@@H](NC1)C(=O)O | C5H9NO3
reactant | NaOH | 13 mmol, 2M, 6.3 mL | [OH-].[Na+]
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF H2O | 18 mL | C1CCOC1.O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | (2R,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O)C(=O)O | C10H17NO5
